Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo man with history of normal pressure hydrocephalus, 
incontinence, gait disorder admitted after syncopal episode at 
home.  Per the patient's wife who was present at the time of the 
incident (the wife is home but contributes to the HPI via 
telephone with the daughter translating at the bedside), the 
patient was somewhat confused, but not more than normal, and 
rose from a seated position to stand up to go to bed last night 
when he lost consciousness.  He fell backwards, back into his 
chair and was said to have lost consciousness.  There was no 
incontinence or seizure like activity noted.  His wife activated 
EMS.  Per the daughter and wife, it's not clear when the patient 
awoke/regained consciousness.  There is no EMS report in the 
chart.  When the patient arrived at the ED, he was said to be 
awake and his VS 97.7, HR 89  BP 135/98  RR 18, 93% on RA.  
Patient was confused and at times agitated as he did not know 
where he was or why he was here.  EKG was without ischemic 
changes or evidence of arrhythmia.  CXR was limited by kyphosis 
but without infiltrate or acute process.  Head CT was unchanged 
from past.  He was given 1 liter of NS and admitted to Medicine 
for further evaluation.

On arrival to the floor, the patient denies any complaints, says 
he feels fine.  He specifically denies any chest pain, dyspnea, 
nausea, vomiting.  Of note, the patient is a seemingly 
unreliable reporter and disagrees with some of what his wife 
endorses in the ROS.  For instance, she says he occasionally 
gets Chest pain but the daughter who is speaking with the wife 
on the telephone discounts her mother's input.  ? reliability of 
the patient's wife input.

 
Past Medical History:
1) NPH - followed at ___ in the past, more recently s/p large 
volume CSF drainages at ___ with improvement per daughter in 
patient's gait and cognition
2) h/o DVT ___ s/p IVC in ___.  Filter placed due to warfarin 
failure.  Thrombophilic w/u negative. Had been on low-molecular 
weight heparin ___, changed back to warfarin due to 
logistical/ compliance issues. No further DVTs since ___ as per 
PCP ___.
3) CKD (baseline Cr 1.9-2.2)  
4) Dementia, severe
5) Hypertension  
6) History of "small stroke" a few months ago, treated at OSH, 
with no sequelae per daughter  
FUNCTIONAL STATUS: The patient denies any recent falls, but the 
daughter says he does fall occasionally. Patient walks with a 
walker. Has a ___ 3 x weekly. Often is confused and wants to 
leave his apt at random times, wants to go to his adult ___ 
facility but can often be redirected. Does not pay bills/drive 
etc. Wife does the cooking. 
*** Has already received the influenza vaccination this year per 
patient/daughter ***
 
Social History:
___
Family History:
Mother died stroke.  Father died from heart attack.
 
Physical Exam:
Well-appearing, cheerful man, lying in bed, NAD
VS: T97.6  HR 132/78 HR 58  RR 16  98% on RA
HEENT: anicteric, EOMI, PERRL
ENT: Moist mucous membranes, poor dentition
NECK: unable to visualize JVP
CV: Reg rate, distant HS, no peripheral edema
LUNGS: CTA, diminished, kyphotic spine
ABD: soft, NT/ND, unable to appreciate HSM due to obesity
Musc-Skel:  normal tone and bulk.  Strength ___ bilat UE's and 
4+/5 ___ grossly though limited by patient's language and 
cognitive barrier.  Appears weaker at hip flexors.
Neuro: Alert, cheerful, pleasant.  Language intact per daughter 
translating, fluent.  Patient oriented to a hospital, in ___.  
Not oriented to year.  Follows commands.  No pronator drift. CN 
II-XII intact grossly.  Sensation intact to light touch.  
Difficulty standing due to ? weakness/incordination.  
SKIN: warm, dry.  Bilateral hand tatoos, RLE with chronic venous 
stasis changes, + bunion.  PTs palp bilaterally.  DP's not palp 
bilaterally.  Left knee with echymosis that appears approx 7 
days old (greenish coloration).  FROM of left knee.  Able to 
bear weight.
PSYCH: appropriate
HEME: no cervical lymphadenopathy
 
Pertinent Results:
___ 09:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 12:54AM   GLUCOSE-114* UREA N-33* CREAT-2.3* SODIUM-143 
POTASSIUM-3.9 CHLORIDE-109* TOTAL CO2-24 ANION GAP-14
___ 12:54AM   WBC-6.7 RBC-4.26* HGB-13.1* HCT-37.5* MCV-88 
MCH-30.9 MCHC-35.1* RDW-15.2
___ 12:54AM   ___ PTT-28.0 ___

HEAD CT: 
1. Stable CT appearance compared to ___ and ___ with no evidence of intracranial hemorrhage or mass effect.

2. Stable dilatation of the ventricular system consistent with 
history of normal pressure hydrocephalus.

ECHO ___:
Conclusions  
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size, and systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. The estimated 
cardiac index is normal (>=2.5L/min/m2). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). There is no left ventricular outflow obstruction 
at rest. Right ventricular chamber size and free wall motion are 
normal. The aortic valve leaflets are mildly thickened. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
an anterior space which most likely represents a fat pad. 
IMPRESSION: Normal biventricular cavity sizes with preserved 
global biventricular systolic function. No structural cardiac 
cause of syncope identified.
 

 
Brief Hospital Course:
___ yo man with syncope at home that occurred upon rising from a 
seated position giving rise to the question that this may very 
well be related to orthostasis.  The patient fell backwards into 
his chair yet did not apparently regain consciousness for some 
period of time.  There was no evidence for seizure activity from 
history.  There is no evidence for arrhythmia on EKG or 
telemetry thus far, but an isolated arrhythmia is a possibility. 
 Given the patient's history of DVT and recurrence in the 
setting of therapeutic warfarin makes one concerned re: 
recurrent DVT and pulmonary embolism, however, there is not much 
else arguing for a PE - he is not tachycardic, he has no 
complaints of dyspnea and his O2 sat is 98% on RA.  
.
1) SYNCOPE: Monitored on telemetry x 48 hours.  EKG without 
acute ischemic changes, TTE as noted. No recurrences throughout 
hospitalization.
.
2) DEMENTIA/DELIRIUM:  Patient with known cognitive impairment 
now with likely superimposed delirium related to environmental 
changes and recent syncopal event.  There is no evidence for a 
superimposed infectious process or electrolyte disorder.  He 
does not appear to be too far off from his baseline, however the 
daughter notes that he has gotten gradually more unsteady on his 
feet and more confused since his last large volume CSF tap done 
at ___.  She questions whether a 
repeat tap would be useful and we consulted Neurology for their 
input. They are assisting in coordinating a long-term management 
plan for the patient either via serial LPs or VP shunt, which 
apparently he has refused in the past. In the meantime, ___ and 
OT were consulted, and we instituted fall precautions. We 
emphasized getting the patient out of bed tid with meals and 
normalizing his routine.  We avoided benzodiazepines, sedating 
medications, and anticholinergics. The family can no longer take 
care of him at home, and they requested transfer to a chronic 
care facility, with ___ being their first choice.
.
3) CKD Stage ___: stable, Continued ___ & Lasix.
.
4) Hypertension: stable
.
5) Hyperglycemia: mild, monitored
.
6) H/o DVT, s/p IVC filter, on chronic anticoagulation: 
continued warfarin with goal INR ___
.
7) HCP: patient's daughter ___ ___, 
cell ___.  .
.
CODE STATUS: DNR/DNI.
 
Medications on Admission:
Confirmed with patient's pharmacy 
___
___

lorazepam 0.5 mg po bid
aricept 10 mg po qhs
warfarin 5 mg po daily
furosemide 20 mg po daily
diovan 160 mg po daily
paxil 20 mg po daily
ambien 10 mg po qhs
Ultram in ___ 50 mg po bid

OTC Med - ___, last taken 3 days prior to presenation

 
Discharge Medications:
1. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. Warfarin 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

3. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Paroxetine HCl 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO Q8 ___ PRN () as 
needed for sleep.  
7. Haloperidol 0.5 mg Tablet Sig: ___ Tablet PO BID (2 times a 
day) as needed for agitation.  
8. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
10. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. syncope 
. 
Secondary diagnoses:  
1) NPH - followed at ___ in the past, more recently s/p large 
volume CSF drainages at ___ with 
improvement in patient's gait and cognition, per daughter 
2) h/o DVT ___ s/p IVC in ___. Filter placed 
3) CKD (baseline Cr 1.9-2.2)  
4) Dementia, severe 
5) Hypertension  
6) History of "small stroke" a few months ago, treated at OSH, 
with no sequelae per daughter 

 
Discharge Condition:
Hemodynamically stable, tolerating a regular diet, ambulating 
with assistance. 

Hemodynamically stable, tolerating a regular diet, ambulating 
with assistance. 

 
Discharge Instructions:
You were admitted after an episode of syncope, or fainting. Your 
heart was evaluated and we found no evidence of a heart attack, 
arrhythmia, or valvular disease as a cause of the fainting. You 
may have been mildly dehydrated. You also have known Normal 
Pressure Hydrocephalus, and at the request of your daughter, we 
consulted ___ regarding long-term management options. 
There was no indication to perform a spinal tap during this 
hospitalization. 
 
Followup Instructions:
___